US08183271B2
[2-(5-Phenylpentyloxy)phenyl]methanol
A solution of 10 g (80.56 mmol) of 2-hydroxybenzyl alcohol in 200 ml of dry acetonitrile is mixed with 27.45 g (120.83 mmol) of (5-bromopentyl)benzene and 12.25 g (88.61 mmol) of anhydrous potassium carbonate and heated under reflux for 12 hours. The mixture is then concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. The organic phase is concentrated. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1). 18.7 g (81% of theory) of a colorless solid are obtained.

reactant | 2-hydroxybenzyl alcohol | 80.56 mmol, 10 g | OC1=C(CO)C=CC=C1 | C7H8O2
reactant | (5-bromopentyl)benzene | 120.83 mmol, 27.45 g | BrCCCCCC1=CC=CC=C1 | C11H15Br
reactant | potassium carbonate | 88.61 mmol, 12.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | [2-(5-Phenylpentyloxy)phenyl]methanol | C1(=CC=CC=C1)CCCCCOC1=C(C=CC=C1)CO | C18H22O2
